US04874760
Production of 5-amino-3-benzyloxymethylisothiazole
In a stream of argon, 182 ml of dry methanol, 191 ml of dry ether and 38.5 g (0.279 mole) of potassium carbonate were added to 31.0 g (0.140 mole) of 3-amino-4-benzyloxy-2-butenethioamide obtained in Referential Example 4, and under heating and reflux, a solution of 26.6 g (0.209 mole) of iodine in dry ether 191 ml was added droopwise to the mixture. Then, the mixture was refluxed for 1.5 hours, and 130 ml of dry ether containing 17.7 g (0.140 mole) of iodine was added dropwise under reflux. After cooling, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with water, an aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The resulting 5-amino-3-benzyloxymethyl isothiazole was subjected to silica gel column chromatography, and the column was eluted with chloroform/methanol (500/2) to give 25.5 g (83.0%) of a brown oily substance.

reactant | methanol | 182 ml | CO | CH4O
reactant | potassium carbonate | 0.279 mole, 38.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-4-benzyloxy-2-butenethioamide | 0.140 mole, 31.0 g | NC(=CC(N)=S)COCC1=CC=CC=C1 | C11H14N2OS
reactant | iodine | 0.209 mole, 26.6 g | II | I2
solvent | ether | 191 ml | CCOCC | C4H10O
solvent | ether | 0.140 mole, 130 ml, 17.7 g | CCOCC | C4H10O
solvent | ether | 191 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-amino-3-benzyloxymethylisothiazole | NC1=CC(=NS1)COCC1=CC=CC=C1 | C11H12N2OS
